US07781426B2
A stirred solution of trans-4-(2-ethoxy-2-oxoethyl)-cyclohexanecarboxylic acid (1 g; 4.67 mmol) in anhydrous THF (25 mL) at 0° C. was treated dropwise with oxalyl chloride (1.02 mL; 11.68 mmol) followed by catalytic DMF (50 μL). The reaction was stirred at room temperature for 2 h, concentrated in vacuo, and the residue was redissolved in THF (25 mL). The resultant solution was cooled to 0° C. and treated with (4S,5R)-3-[2-amino-5-(trifluoromethoxy)benzyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (2.58 g; 5.14 mmol) and triethylamine (0.716 mL; 5.14 mmol). The reaction was stirred at room temperature for 1 h, quenched with water and partitioned between EtOAc (100 mL) and H2O (100 mL). The aqueous layer was extracted with EtOAc (3×100 mL) and the combined extracts were washed with brine (100 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash silica gel chromatography, eluting with EtOAc/hexanes, to afford ethyl [trans-4-({[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl]amino}carbonyl)cyclohexyl]acetate as an off-white solid. LCMS=698.9 (M+1)+. 1H NMR (CDCl3, 500 MHz): δ 8.94 (s, 1 H), 8.23 (d, J=8.9 Hz, 1 H), 7.92 (s, 1 H), 7.73 (s, 2H), 7.27-7.24 (m, 1 H), 7.02 (s, 1 H), 5.71 (d, J=8.4 Hz, 1 H), 4.78 (d, J=15.5 Hz, 1 H), 4.19-4.12 (m, 3H), 4.07 (d, J=15.6 Hz, 1 H), 2.43-2.37 (m, 1 H), 2.21 (d, J=6.9 Hz, 2 H), 2.07-1.98 (m, 2 H), 1.93-1.83 (m, 3 H), 1.67 (q, J=12.6 Hz, 2 H), 1.26 (t, J=7.2 Hz, 3 H), 1.19-1.11 (m, 2 H), 0.88 (d, J=6.6 Hz, 3 H).

reactant | trans-4-(2-ethoxy-2-oxoethyl)-cyclohexanecarboxylic acid | 4.67 mmol, 1 g | C(C)OC(C[C@@H]1CC[C@H](CC1)C(=O)O)=O | C11H18O4
reactant | oxalyl chloride | 11.68 mmol, 1.02 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (4S,5R)-3-[2-amino-5-(trifluoromethoxy)benzyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 5.14 mmol, 2.58 g | NC1=C(CN2C(O[C@@H]([C@@H]2C)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C=C(C=C1)OC(F)(F)F | C20H15F9N2O3
reactant | triethylamine | 5.14 mmol, 0.716 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | DMF | 50 μL | CN(C)C=O | C3H7NO
product | ethyl [trans-4-({[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl]amino}carbonyl)cyclohexyl]acetate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)NC(=O)[C@@H]1CC[C@H](CC1)CC(=O)OCC)C)(F)F | C31H31F9N2O6
